US06831175B2
trans-4-[(5-Bromo-pyridin-3-yl)-vinyl]-2-amino-pyrimidine
A solution of 5-bromo-pyridine-3-carbaldehyde (436 mg, 2.34 mmol) and 2-amino-4-methylpyrimidine (246 mg, 2.35 mmol) in formic acid (96%, 3 mL) was heated for 18 h. After cooling to rt, it was then diluted with water and basified to pH ˜13 with 1 N NaOH. The mixture was then extracted with methylene chloride. The combined extracts was washed with water (1×), dried over MgSO4 and concentrated. The residue was chromatographed on silica gel eluting with CH2Cl2:MeOH:NH4OH (100:5:0.5) to give the title compound (463 mg, 71%). MS (DCI/NH3) m/z 277, 279 (M+1)+.

reactant | 5-bromo-pyridine-3-carbaldehyde | 2.34 mmol, 436 mg | BrC=1C=C(C=NC1)C=O | C6H4BrNO
reactant | 2-amino-4-methylpyrimidine | 2.35 mmol, 246 mg | NC1=NC=CC(=N1)C | C5H7N3
solvent | formic acid | 3 mL | C(=O)O | CH2O2
solvent | water | O | H2O
solvent | NaOH | 1 N | [OH-].[Na+]
product | trans-4-[(5-Bromo-pyridin-3-yl)-vinyl]-2-amino-pyrimidine | 463 mg, 71% | BrC=1C=C(C=NC1)/C=C/C1=NC(=NC=C1)N | C11H9BrN4
